US20010008893A1
Using 4.70 g of 2,6-dimethyl-1,4-dihydroxybenzene, 4.0 ml of benzoyl chloride and 100 ml of pyridine, reaction and workup carried out as in Reference Example gave 6.35 g of 4-benzoyloxy-2,6-dimethylphenol as white crystals, m.p. 139.5-141.0°C. Using 6.35 g of the white crystals, 1.26 g of sodium hydride, 4.2 ml of benzyl bromide and 50 ml of DMF, reaction and workup carried out as in Example 12 gave 4.22 g of yellow oil.

reactant | 2,6-dimethyl-1,4-dihydroxybenzene | 4.70 g | CC1=C(C(=CC(=C1)O)C)O | C8H10O2
reactant | benzoyl chloride | 4.0 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 4-benzoyloxy-2,6-dimethylphenol | 6.35 g | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C(=C1)C)O)C | C15H14O3
